US04997844
Using an analogous procedure to that described in Example 1, but starting from methyl 4-(6-aminoindazol-1-ylmethyl)-3-methoxybenzoate and 2-ethylhexanoyl chloride, there was obtained methyl 4-[6-(2-ethylhexanamido)indazol-1-ylmethyl]-3-methoxybenzoate in 68% yield as a white solid, m.p. 135.5°-136.5° C.; microanalysis, found: C, 68.37; H, 7.10; N, 9.43%; C25H31,N3O4 requires: C, 68.64; H, 7.14; N, 9.60%.

reactant | methyl 4-(6-aminoindazol-1-ylmethyl)-3-methoxybenzoate | NC1=CC=C2C=NN(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | C17H17N3O3
reactant | 2-ethylhexanoyl chloride | C(C)C(C(=O)Cl)CCCC | C8H15ClO
product | methyl 4-[6-(2-ethylhexanamido)indazol-1-ylmethyl]-3-methoxybenzoate | 68% yield | C(C)C(C(=O)NC1=CC=C2C=NN(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)CCCC | C25H31N3O4
